US07419972B2
3,7β-Dihydroxy-2-iodo-estra-1,3,5(10)-trien-17-one 15
For the removal of both acetyl protective groups, 700 mg (1.4 mmol) of 3,7β-diacetoxy-2-iodo-estra-1,3,5(10)-trien-17-one, dissolved in 20 ml of methanol, was mixed with 200 mg of sodium methanolate, and the solution was stirred overnight. Then, it was mixed with 2.5 g of Amberlite IR-120, stirred for 30 minutes, filtered, and the solution was concentrated by evaporation in a rotary evaporator. Flash chromatography (cyclohexane/ethyl acetate) yielded 396 mg (68%) of colorless crystals.

reactant | 3,7β-diacetoxy-2-iodo-estra-1,3,5(10)-trien-17-one | 1.4 mmol, 700 mg | C(C)(=O)OC1=CC=2C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1I)=O)OC(C)=O | C22H25IO5
reactant | sodium methanolate | 200 mg | C[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 3,7β-Dihydroxy-2-iodo-estra-1,3,5(10)-trien-17-one | 396 mg, 68% | OC1=CC=2C[C@@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2C=C1I)=O)O | C18H21IO3
